US09085555B2
F. 3-[((2S,4R)-2-Aminomethyl-4-fluoro-pyrrolidine-1-carbonyl)-amino]-indole-1-carboxylic acid amide
3-[((2S,4R)-2-Azidomethyl-4-fluoro-pyrrolidine-1-carbonyl)-amino]-indole-1-carboxylic acid amide (500 mg, 2.84 mmol) was suspended in THF (5 mL). Air was removed from the flask and replaced with nitrogen three times. Pd/C 10% (100 mg) was added to the solution which was again degassed, placed under a hydrogen atmosphere, and stirred at RT for 1.5 h. The catalyst was removed through a pad of Celite and washed with THF and MeOH to give the desired material which was used in the next step without further purification. MS (LC-MS): 320.2 [M+H]+, 639.2 [2M+H]+, 661.3 [2M+Na]+, 318.1 [M−H]−; tR (HPLC conditions f): 0+1.02+1.61 min.

reactant | 3-[((2S,4R)-2-Azidomethyl-4-fluoro-pyrrolidine-1-carbonyl)-amino]-indole-1-carboxylic acid amide | 2.84 mmol, 500 mg | N(=[N+]=[N-])C[C@H]1N(C[C@@H](C1)F)C(=O)NC1=CN(C2=CC=CC=C12)C(=O)N | C15H16FN7O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[((2S,4R)-2-Aminomethyl-4-fluoro-pyrrolidine-1-carbonyl)-amino]-indole-1-carboxylic acid amide | NC[C@H]1N(C[C@@H](C1)F)C(=O)NC1=CN(C2=CC=CC=C12)C(=O)N | C15H18FN5O2
